US04145253
Fortimicin KE may also be obtained by heating Fortimicin D in an alkaline aqueous solution such as sodium hydroxide and barium hydroxide. Specifically, Fortimicin D is heated in an aqueous solution of saturated barium hydroxide at a temperature of 100° C. for 3 hours. Then the reaction solution is neutralized with dry ice and the resulting precipitate of barium carbonate is removed by filtration. The filtrate is concentrated and passed through a column packed with Amberlite CG-50 (ammonium form). After washing the column with water, elution is carried out with 0.2N aqueous ammonia. First, a small amount of reaction by-products is eluted and subsequently Fortimicin KE is eluted. The fractions containing Fortimicin KE are combined and concentrated under reduced pressure. The concentrate is then freeze-dried to obtain the free base of Fortimicin KE.

reactant | Fortimicin D | CN([C@H]1[C@H]([C@@H]([C@H]([C@@H]([C@@H]1OC)O)N)O[C@@H]2[C@@H](CC[C@H](O2)CN)N)O)C(=O)CN | C16H33N5O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
reactant | dry ice | C(=O)=O | CO2
product | Fortimicin KE | CN[C@H]1[C@H]([C@@H]([C@H]([C@@H]([C@@H]1OC)O)N)O[C@@H]2[C@@H](CC[C@H](O2)CN)N)O | C14H30N4O5
